US06635655B1
6-Methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one
To a cooled solution (−78° C.) of 6-methoxy-3-methyl-1,3-dihydro-indol-2-one (679 mg, 3.83 mmol) in THF (13 mL) is added TMEDA (1.16 mL, 7.66 mmol) followed by dropwise addition of 2.5M n-BuLi (3.06 mL, 7.66 mmol). The mixture is stirred for 15 min then warmed to −25° C. Add dropwise iodomethane (275 μL, 4.40 mmol) and let stir for 30 min. The reaction is quenched with sat NH4Cl soln, warmed to room temp and diluted with EtOAc. The organic layer is washed with sat NH4Cl soin, brine, dried over MgSO4 and concentrated. The residue is purified by flash chromatography (eluting with 35% ethyl acetate/hexanes) to give 601 mg of title compound as a white crystalline solid. MS (ESI) 192 (M+H)+.

reactant | 6-methoxy-3-methyl-1,3-dihydro-indol-2-one | 3.83 mmol, 679 mg | COC1=CC=C2C(C(NC2=C1)=O)C | C10H11NO2
reactant | TMEDA | 7.66 mmol, 1.16 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 7.66 mmol, 2.5M, 3.06 mL | [Li]CCCC
reactant | iodomethane | 4.40 mmol, 275 μL | IC | CH3I
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | 6-Methoxy-3,3-dimethyl-1,3-dihydro-indol-2-one | 601 mg | COC1=CC=C2C(C(NC2=C1)=O)(C)C | C11H13NO2
